US06559173B1
5-Methylsulfanyl-3-[(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-1H-pyrazole-4-carbonitrile
The named compound is prepared by substituting 3-amino-5-methylsulfanyl-1H-pyrazole-4-carbonitrile for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.2003 gms. of 3-amino-5-methylsulfanyl-1H-pyrazole-4-carbonitrile by refluxing in tetrahydrofuran (2.5 mL).

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-amino-5-methylsulfanyl-1H-pyrazole-4-carbonitrile | NC1=NNC(=C1C#N)SC | C5H6N4S
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 5-Methylsulfanyl-3-[(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-1H-pyrazole-4-carbonitrile | CSC1=C(C(=NN1)NC=C1C(NC2=CC=CC=C12)=O)C#N | C14H11N5OS
